US08217069B2
To a solution of 6-chloro-2-hydroxymethyl-4-methoxypyridine (1.85 g), which was prepared by a method mentioned in Tokkaihei 10-59942 (JP1998-59942A), and imidazole (0.87 g) in N,N-dimethylformamide (30 mL) was added tert-butyldimethylchlorosilane (1.77 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water twice, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=85/15) to give 2-(tert-butyldimethylsilyloxy)methyl-6-chloro-4-methoxypyridine (2.83 g). To a solution of N,N-diisopropylamine (0.54 mL) in tetrahydrofuran (20 mL) was added n-butyllithium (2.77 mol/L n-hexane solution, 1.25 mL) at −78° C., and the mixture was stirred at the same temperature for 5 minutes. To the reaction mixture was added a solution of 2-(tert-butyldimethylsilyloxy)methyl-6-chloro-4-methoxypyridine (1 g) in tetrahydrofuran (5 mL), and the mixture was stirred at the same temperature for 20 minutes. To the reaction mixture was added N,N-dimethylformamide (0.32 mL), and the mixture was stirred at the same temperature for 10 minutes. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the resulting mixture was stirred at room temperature for 5 minutes. The mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=3/1) to give 6-(tert-butyldimethylsilyloxy)methyl-2-chloro-4-methoxy-3-formylpyridine (0.28 g). The title compound was prepared in a similar manner to that described in Reference Example 15 using 6-(tert-butyldimethylsilyloxy)methyl-2-chloro-4-methoxy-3-formylpyridine instead of 2,6-dibromo-3-formylpyridine.

reactant | 6-chloro-2-hydroxymethyl-4-methoxypyridine | 1.85 g | ClC1=CC(=CC(=N1)CO)OC | C7H8ClNO2
reactant | imidazole | 0.87 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 1.77 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-(tert-butyldimethylsilyloxy)methyl-6-chloro-4-methoxypyridine | 2.83 g | [Si](C)(C)(C(C)(C)C)OCC1=NC(=CC(=C1)OC)Cl | C13H22ClNO2Si
